Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
amoxicillin
 
Attending: ___.
 
Chief Complaint:
ERCP
 
Major Surgical or Invasive Procedure:
ERCP on ___

 
History of Present Illness:
Ms. ___ is a ___ female with history of uterine
bleeding that started in ___ of this year, thyroid nodules,
that presented at OSH with c/o 2-week history of nausea, and
recent development of dark urine, scleral icterus, found to have
transaminitis and hyperbilirubinemia with MRCP findings
significant for dilated CBD; ERCP was attempted but unsuccessful
and she was transferred to our facility for further evaluation. 

Patient was in her usual state of health until approximately 3
months ago when she developed uterine bleeding.  She has had
workup for this with GYN, findings of large uterine fibroid.  
She
was placed on oral birth control tablets with plans for
hysterectomy. She had a D&C 1 week prior to this admission. Over
the 2 weeks prior to admission, she has noticed increased 
nausea.
Last week, she noticed that her urine had turned dark and she
noticed the whites of her eyes were yellow, she also noted 
slight
yellowing of her skin and generalized itching.  She was 
evaluated
by her PCP who found that she had an elevated bilirubin, and she
was sent to ___ for further evaluation. At
that facility, labs remarkable for: AST/ALT 700s, ALP 300, TBil
7, lipase 1290. MRCP showed 13 mm CBD with tapering at ampulla
and sludge in gallbladder, but no stones. ERCP was attempted but
couldn't cannulate. Limited pancreatogram during ERCP showed 1.5
cm distal PD stricture with upstream dilation to 4 mm.
Superficial ampullary biopsied was taken. Received antibiotics
for ERCP (unclear what Abx). Not on anticoagulants/antiplatelets
agents at home. She was transferred to our facility, and
underwent ERCP today, with findings of CBD/PD strictures,
concerning for pancreatic head cancer vs. autoimmune
pancreatitis. Recommendations included CT with pancreatic
protocol, ___ and IgG4 levels.

My evaluation, patient is comfortable and is denying any 
specific
complaints at this time.  She states that she has some mild
abdominal discomfort in the form of gas but not true pain.  Her
last bowel movement was this evening at 6 ___ and was grossly
watery.  She has not eaten any solid food since last ___, 4
days prior to admission.  She denies chest pain, shortness of
breath, rash, lower extremity pain or swelling.  She endorses
pruritus, and jaundice.

ROS: Pertinent positives and negatives as noted in the HPI.  All
other systems were reviewed and are negative. 

 
Past Medical History:
Abnormal uterine bleeding, began ___
Uterine fibroids
Lung nodules, followed yearly
Thyroid nodules, presumed benign
D&C ___
Rotator cuff surgery remote
Bunionectomy
 
Social History:
___
Family History:
Mother with history of MS, lung nodules, she passed away at age
___ related to UTI and sepsis.
Sister with history of retinoblastoma status post surgical
excision of one eye, precancerous thyroid lesions, bipolar
disorder.
Other sister with history of ___ disease.
Brother with bipolar disorder.
 
Physical Exam:
ADMISSION
___ Temp: 98.8 PO BP: 133/76 R Lying HR: 62 RR: 20 O2
sat: 98% O2 delivery: RA 
VITALS: Afebrile and vital signs stable
___: Alert, NAD
EYES: +scleral icterus, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma.  

CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds present. No rebound or guarding. No HSM.
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities.
SKIN: jaundice appreciated
NEURO: Alert, oriented, face symmetric, gaze conjugate.
PSYCH: pleasant, appropriate affect

DISCHARGE
VS: 24 HR Data (last updated ___ @ 759)
    Temp: 98.4 (Tm 99.0), BP: 117/80 (114-132/70-80), HR: 64
(64-76), RR: 18 (___), O2 sat: 95% (93-97), O2 delivery: Ra,
Wt: 146.4 lb/66.41 kg  
Gen - sitting up in bed, comfortable, +jaundice, less so than 
day
prior 
Eyes - EOMI, +icterus
ENT - OP clear, MMM
Heart - RRR no mrg
Lungs - CTA bilaterally
Abd - soft nontender, negative murphys; no rebound/guarding;
normal bowel sounds 
Ext - no edema
Skin - no rashes
Vasc - 2+ DP/radial pulses
Neuro - AOx3, moving all extremities
Psych - appropriate
 
Pertinent Results:
ADMISSION
___ 06:53AM BLOOD WBC-6.2 RBC-3.98 Hgb-11.7 Hct-35.4 MCV-89 
MCH-29.4 MCHC-33.1 RDW-14.7 RDWSD-47.8* Plt ___
___ 06:53AM BLOOD Glucose-81 UreaN-5* Creat-0.9 Na-141 
K-3.9 Cl-104 HCO3-22 AnGap-15
___ 06:53AM BLOOD ALT-951* AST-504* LD(LDH)-253* 
AlkPhos-239* TotBili-5.5*

DISCHARGE
___ 07:10AM BLOOD WBC-4.7 RBC-4.20 Hgb-12.4 Hct-37.8 MCV-90 
MCH-29.5 MCHC-32.8 RDW-14.9 RDWSD-48.5* Plt ___
___ 07:10AM BLOOD Glucose-96 UreaN-5* Creat-0.9 Na-144 
K-4.3 Cl-105 HCO3-28 AnGap-11
___ 07:10AM BLOOD ALT-887* AST-395* AlkPhos-255* 
TotBili-3.5*

___ - CA ___ (normal <34 U/mL)

Common bile duct brushings, distal stricture:
POSITIVE FOR MALIGNANT CELLS.
- Consistent with adenocarcinoma.

ERCP - see report in OMR

CTA ABD W&W/O C & RECON
1. Asymmetric gallbladder wall edema, which extends into the 
porta hepatis is nonspecific and may be due to pancreatitis 
and/or hepatitis. 
2. No discrete pancreatic mass is identified, although presence 
of common bile duct stent may limit this evaluation. 
3. Patient is status post ERCP with common bile duct stent in 
situ and 
resultant pneumobilia with apparent decompression of the biliary 
system. 
4. Pancreatic duct stent appears in situ, but there remains 
dilation of the main pancreatic duct up to 5 mm. 
5. No suggestion of metastatic disease identified in the 
abdomen. 
 
Brief Hospital Course:
This is a ___ year old female with past medical history of 
uterine
fibroids status post recent dilation and curettage, admitted
___ with biliary obstruction, status post ERCP with 
sphincterotomy and stenting of pancreatic and CBD strictures, 
clinically improving, with ERCP cytology returning showing 
adenocarcinoma, being arranged for ___ in the ___ 
multidisciplinary cancer clinic, able to be discharged home. 

# Biliary obstruction AND 
# Acute pancreatitis secondary to 
# Suspected Pancreatic Head Malignancy with 
# Common bile duct stricture
Patient referred to ___ for ERCP after failed ERCP attempt at 
___ for worsening jaundice.  Patient underwent ERCP 
with sphincterotomy, demonstrating common bile duct stricture, 
concerning for malignancy, which was stented.  Plastic 
pancreatic duct stent placed as well.  Cytology brushings were 
sent.  Patient clinical status rapidly improved and her 
bilirubin decreased from 7.1 at OSH to 3.5 by day of discharge.  
CTA pancreas did not show evidence of discrete pancreatic mass, 
although radiology acknowledged that presence of common bile 
duct stent may have limited the evaluation.  Patient was able to 
advance diet without pain, nausea or other issue.  On day of 
discharge cytology returned showing malignant cell consistent 
with adenocarcinoma.  Diagnosis was discussed with patient, 
husband and sister.  Discussed with advanced endoscopy 
attending, and then nurse coordinator for ___ 
clinic who are coordinating ___ appointment for patient on 
___.  Notified PCP's office of new diagnosis via 
phone.  At time of discharge ___ returned at 17 (normal < 34 
U/mL).  Planned for ___ in ___, and per advanced 
endoscopy, will need repeat ERCP at 2 weeks for pancreatic duct 
stent removal.  

# Abnormal CT Gallbladder
CTA pancreas incidentally showed "Asymmetric gallbladder wall 
edema, which extends into the porta hepatis is nonspecific and 
may be due to pancreatitis and/or hepatitis".  Given clinical 
history and her rapidly improving clinical picture, felt that 
edema was secondary to pancreatitis from biliary obstruction, 
and there was no concern for ongoing gallbladder infection.  
Discussed with patient warning signs that would be concerning 
for new pathology, that should prompt her to see emergent
attention--she verbalized understanding. 

# Vaginal bleeding secondary to fibroids
Patient reported that she was recently on high dose birth 
control for fibroid-related bleeding, but that this had been 
stopped during ___ stay;
Given potential cholestatic effect of progesterone/estrogen, 
advised patient to not restart this until her ___ PCP and 
___ clinic meetings. 

Transitional issues 
- Discharged home with PCP ___ scheduled
- Contacted ___ who are arranging for 
appointment on ___
- LFTs at discharge were ALT 887 AST 395 AP 255 Tbili 3.5; would 
recheck at ___ to ensure normalization
- Patient will need repeat ERCP for pancreatic duct stent pull 
in 2 weeks

> 30 minutes spent on this discharge
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
None
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
# Biliary obstruction secondary to 
# Malignant bile duct stricture
# Acute pancreatitis 
# Fibroids

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Ms. ___: 

It was a pleasure caring for you at ___.  You were admitted 
with a blockage of your biliary duct, caused by a narrowing 
("stricture").  You underwent a special endoscopy ("ERCP") and 
the blockages were opened.  You had 2 stents placed--one in your 
common bile duct, one if your pancreatic duct.  

Your total bilirubin improved from Tbili 7.3 to 5.5 to 3.5. 

You had testing done to look for the cause of the stricture.  
Brushings ("cytology") from your endoscopy showed cancer cells 
("adenocarcinoma") 

We are arranging for you to have an appointment at the ___ 
___, where they will help identify a 
treatment plan. They will contact you within the next 2 days 
with instructions for your appointment.  The GI doctors who did 
your endoscopy will also be in touch with you about scheduling a 
repeat endoscopy in 2 weeks.  If you do not hear from them 
within the next 2 days, they can be reached at ___.

You are now ready for discharge home. 
 
Followup Instructions:
___